US04740513
6-(4-Cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone 0.67 H2O
A mixture of 6-(4-Iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone (0.55 g), cuprous cyanide (0.27 g) and palladium acetate (0.03 g) in 1-methyl-2-pyrrolidone (5 cm3) was heated and stirred at 175° for 2 hours. The cooled mixture was poured into aqueous ammonia solution (30 cm3 ; S.G. 0.880) and extracted with dichloromethane (3×100 cm3). The combined and dried (MgSO4) organic extracts were filtered and evaporated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with chloroform. Combination and evaporation of the appropriate fractions afforded the title compound, m.p. >350°, (0.22 g).

reactant | 6-(4-Iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 0.55 g | IC=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C14H12IN3O
reactant | ammonia | 30 cm3 | N | H3N
reactant | 1-methyl-2-pyrrolidone | 5 cm3 | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.03 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(4-Cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | C(#N)C=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C15H12N4O
